US07138408B2
Step (a): Ethyl 9-(3-chloro-2,6-difluorobenzyl)-9H-β-carboline-3-carboxylate
To a stirred solution of ethyl 9H-β-carboline-3-carboxylate (440 mg, 1.83 mmol) in DMF (5 mL) under a nitrogen atmosphere was added NaH (73.3 mg, 60% in mineral oil, 1.83 mmol) portionwise, followed by 3-chloro-2,6-difluorobenzyl bromide (442 mg, 1.83 mmol). Stirring was continued for 22 hours at ambient temperature, water (30 mL) was then added to the mixture. The precipitate was filtered, washed with water and dried to give the title product (0.55 g, 68%). 1H NMR (400 MHz, CD3OD): δ 9.04 (1H, s), 8.86 (1H, s), 8.26 (1H, d, J=8 Hz), 6.98–7.69 (5H, m), 5.82 (2H, s), 4.44 (2H, q, J=8 Hz), 1.43 (3H, t, J=8 Hz).

reactant | ethyl 9H-β-carboline-3-carboxylate | 1.83 mmol, 440 mg | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H12N2O2
reactant | NaH | 1.83 mmol, 73.3 mg | [H-].[Na+]
reactant | 3-chloro-2,6-difluorobenzyl bromide | 1.83 mmol, 442 mg | ClC=1C(=C(CBr)C(=CC1)F)F | C7H4BrClF2
reactant | water | 30 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 9-(3-chloro-2,6-difluorobenzyl)-9H-β-carboline-3-carboxylate | 0.55 g, 68% | ClC=1C(=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)OCC)C(=CC1)F)F | C21H15ClF2N2O2
